US07514571B2
4-Benzyloxycarbonylaminobicyclo[2,2,2]octane-1-carboxylic acid (1.00 g) was suspended in dichloromethane (10 mL). To this suspension, 3,4-dihydro-2H-pyran (1.20 mL) and then p-toluenesulfonic acid monohydrate (6.3 mg) were added and the mixture was stirred at room temperature for 30 minutes. Subsequently, the reaction mixture was sequentially washed with a saturated aqueous sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluant: hexane: ethyl acetate=4:1) to give 2-tetrahydropyranyl 4-benzyloxycarbonylaminobicyclo[2,2,2]octane-1-carboxylate (1.18 g).

reactant | 4-Benzyloxycarbonylaminobicyclo[2,2,2]octane-1-carboxylic acid | 1.00 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C17H21NO4
reactant | 3,4-dihydro-2H-pyran | 1.20 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 6.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-tetrahydropyranyl 4-benzyloxycarbonylaminobicyclo[2,2,2]octane-1-carboxylate | 1.18 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)OC2OCCCC2 | C22H29NO5
